US03992408
In the manner given in Example 20, 7-trifluoromethyl-5-phenyl-2-[(3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine, ethylene ketal is treated with concentrated sulfuric acid, then quenched to give after neutralization, 8-trifluoromethyl-1-(phthalimidomethyl)-6-phenyl-4H-imidazo-[1,2-a][1,4]benzodiazepine.

reactant | 7-trifluoromethyl-5-phenyl-2-[(3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NCC(=O)CN2C(C=3C(C2=O)=CC=CC3)=O)C3=CC=CC=C3)C1)(F)F | C27H19F3N4O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-trifluoromethyl-1-(phthalimidomethyl)-6-phenyl-4H-imidazo-[1,2-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=CN3)CN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1)(F)F | C27H17F3N4O2
